US06218397B1
5-Amino-3-methylsulfanyl-1-(2,4,6-trichlorophenyl)-1H-pyrazole-4-carboxamide:
A mixture of bis(methythio)methylenecyanoacetamide (7.800 g, 50 mmol) and 2,4,6-trichlorophenylhydrazine (10.575 g, 50 mmol) in 250 ml of methanol was heated at reflux for 2.5 hours. The mixture was cooled and water was added. Precipitate formed and filtered to give 14.323 g (81.5% yield) of the title compound as a white solid. 1H NMR(CDCl3): 2.6 (s,3H), 5.5(brs, 2H), 7.5(s,2H) ppm. Recrystallization of a small portion of the solid from chloroform gave white crystals; m. p. 198-199° C. Anal. Calc. for C11H9Cl3N4OS: C, 37.57; H, 2.58; N, 15.93; Found: C, 37.54; H, 2.51; N, 15.73.

reactant | bis(methythio)methylenecyanoacetamide | 50 mmol, 7.800 g | CSC(SC)=C(C(=O)N)C#N | C6H8N2OS2
reactant | 2,4,6-trichlorophenylhydrazine | 50 mmol, 10.575 g | ClC1=C(C(=CC(=C1)Cl)Cl)NN | C6H5Cl3N2
reactant | water | O | H2O
solvent | methanol | 250 ml | CO | CH4O
product | 5-Amino-3-methylsulfanyl-1-(2,4,6-trichlorophenyl)-1H-pyrazole-4-carboxamide | 14.323 g, 81.5% yield | NC1=C(C(=NN1C1=C(C=C(C=C1Cl)Cl)Cl)SC)C(=O)N | C11H9Cl3N4OS
